US05326760
2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-(hydroxy)-butanoic acid-1,1-dimethylethyl ester
8.8 g of 2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester, prepared as in Example M, in 300 mL acetic acid was stirred for 24 h at 45° C. and the solvent was removed by evaporation. The residue was dissolved in 300 mL ethyl acetate, washed with 3×100 mL sodium bicarbonate, dried (MgSO4), filtered, and the solvents were removed by evaporation. The residue was purified by silica chromatography using methylene chloride:acetone (2:1) as eluent to give the title compound; 5.9 g.

reactant | 2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester | 8.8 g | CC(C)(C)OC([C@@H](CCO[Si](C)(C)C(C)(C)C)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C27H48N2O4Si
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-(hydroxy)-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCO)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C21H34N2O4
